US07632832B2
Step E. tert-Butyl 4-(4-cyano-2-oxo-2,3-dihydro-1H-imidazol-1-yl)piperidine-1-carboxylate
(Methoxycarbonylsulfamoyl)triethylammonium hydroxide, inner salt (179.7 mg, 0.754 mmol) was added to a solution of tert-butyl 4-[4-(aminocarbonyl)-2-oxo-2,3-dihydro-1H-imidazol-1-yl]piperidine-1-carboxylate (78 mg, 0.251 mmol) in dichloroethane (5 mL) and was heated to 50° C. After 1 h, the reaction was worked up with dichloromethane and saturated sodium bicarbonate. The organic extracts were washed with brine, dried over sodium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% dichloromethane→5% methanol {1% ammonium hydroxide}/dichloromethane) gave the title compound (40 mg). MS 237.04 (M+1-tert butyl)

reactant | (Methoxycarbonylsulfamoyl)triethylammonium hydroxide | [OH-].COC(=O)NS(=O)(=O)[N+](CC)(CC)CC
reactant | tert-butyl 4-[4-(aminocarbonyl)-2-oxo-2,3-dihydro-1H-imidazol-1-yl]piperidine-1-carboxylate | 0.251 mmol, 78 mg | NC(=O)C=1NC(N(C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C14H22N4O4
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
product | tert-Butyl 4-(4-cyano-2-oxo-2,3-dihydro-1H-imidazol-1-yl)piperidine-1-carboxylate | 40 mg | C(#N)C=1NC(N(C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C14H20N4O3
